### ISSUE TITLE
Rewrite fails to find instance correctly

### ISSUE THREAD

**Issue by b-mehta** [leanprover/lean4#2736]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

Rewrite fails to identify an instance argument

### Context

```
set_option autoImplicit true

section Mathlib.Init.ZeroOne

class One (α : Type) where
  one : α

instance One.toOfNat1 {α} [One α] : OfNat α (nat_lit 1) where
  ofNat := ‹One α›.1

end Mathlib.Init.ZeroOne

section Mathlib.Algebra.Group.Defs

class MulOneClass (M : Type) extends One M, Mul M where
  one_mul : ∀ a : M, 1 * a = a

export MulOneClass (one_mul)

end Mathlib.Algebra.Group.Defs

section Mathlib.Algebra.Ring.Defs

class Distrib (R : Type) extends Mul R, Add R where
  right_distrib : ∀ a b c : R, (a + b) * c = a * c + b * c

class RightDistribClass (R : Type) [Mul R] [Add R] : Prop where
  right_distrib : ∀ a b c : R, (a + b) * c = a * c + b * c

instance Distrib.rightDistribClass (R : Type) [Distrib R] : RightDistribClass R :=
  ⟨Distrib.right_distrib⟩

theorem add_mul [Mul R] [Add R] [RightDistribClass R] (a b c : R) :
    (a + b) * c = a * c + b * c :=
  RightDistribClass.right_distrib a b c

theorem add_one_mul [Add α] [MulOneClass α] [RightDistribClass α] (a b : α) :
    (a + 1) * b = a * b + b := by
  rw [add_mul, one_mul]

class Semiring (R : Type) extends Distrib R, MulOneClass R

end Mathlib.Algebra.Ring.Defs

section Mathlib.Data.Nat.Basic

instance : Semiring Nat where
  add := Nat.add
  mul := Nat.mul
  one := Nat.succ Nat.zero
  one_mul := sorry
  right_distrib := sorry

end Mathlib.Data.Nat.Basic

#synth MulOneClass Nat       -- works
#synth RightDistribClass Nat -- works

example {a b : Nat} : (a + 1) * b = a * b + b :=
  have := add_one_mul a b -- works
  by rw [add_one_mul]     -- failed to synthesize instance: RightDistribClass ?m
```

Zulip discussion: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/regression.20in.20rw
Thanks to @semorrison for making it mathlib-free.

### Steps to Reproduce

1. Code as above.

**Expected behavior:** The rewrite should succeed and close the goal.

**Actual behavior:** The rewrite fails, giving error "failed to synthesize instance RightDistribClass"

### Versions

Lean (version 4.2.0-rc4, commit 819b5eaceaa4, Release)
MacOS

### Additional Information

None

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by thorimur** [comment]
This is actually a more general issue with typeclass synthesis, and is not limited to `rw` (which essentially just does the following internally): prepend `import Lean`, then append the following to the above example:
```lean
open Lean Meta Elab Tactic in
elab "elab_term_then_synth " stx:term : tactic => withMainContext do
  let e ← Term.withSynthesize do Tactic.elabTerm stx none true
  logInfoAt stx m!"{e}"

example {a b : Nat} : (a + 1) * b = a * b + b :=
  have := add_one_mul a b -- works
  by elab_term_then_synth add_one_mul -- failed to synthesize instance: RightDistribClass ?m
```

Note that the above is just used to mimic `rw`; we can capture the issue more succinctly:
```
open Lean Meta Elab Tactic in
elab "elab_term " stx:term : tactic => withMainContext do
  let e ← Tactic.elabTerm stx none
  logInfoAt stx m!"{e}"

example {a b : Nat} : (a + 1) * b = a * b + b :=
  have := add_one_mul a b -- works
  by elab_term_then_synth add_one_mul -- failed to synthesize instance: RightDistribClass ?m
```
